US07727985B2
4-methyl-2,3,4,9-tetrahydro-1H-β-carboline (214 mg, 1.17 mmol) was suspended in xylenes (10 ml). Pd (10% wt. on carbon, 21 mg) catalyst was added thereto and the reaction mixture was stirred at 160° C. for 24 hours, then cooled to RT and filtered through celite. The filtrate was concentrated to dryness to give 4-methyl-9H-β-carboline (210 mg).

reactant | 4-methyl-2,3,4,9-tetrahydro-1H-β-carboline | 1.17 mmol, 214 mg | CC1CNCC=2NC3=CC=CC=C3C12 | C12H14N2
catalyst | Pd | 21 mg | [Pd] | Pd
product | 4-methyl-9H-β-carboline | 210 mg | CC1=CN=CC=2NC3=CC=CC=C3C12 | C12H10N2
